US07994163B2
4-(1,1-Dimethyl-propyl)-1-dimethylthiocarbamoyloxy-benzene:
Stir a mixture of 4-(1,1-dimethyl-propyl)-phenol (1.96 g, 11.9 mmol), N,N-dimethylthiocarbamoyl chloride (2.94 g, 23.8 mmol) and DABCO (2.82 g, 25.1 mmol) in anhydrous DMF (30 mL) at room temperature for 16 h under a nitrogen atmosphere. Pour reaction onto ice and extract the mixture with EtOAc (3×75 mL). Combine the organic extracts and wash with 0.5 M aqueous HCl. Dry the organic phase over MgSO4 and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (4:1) to obtain the desired intermediate as a yellow solid (2.28 g, 76%). MS (ES+) m/z: 252.3 (M+H)+.

reactant | 4-(1,1-dimethyl-propyl)-phenol | 11.9 mmol, 1.96 g | CC(CC)(C)C1=CC=C(C=C1)O | C11H16O
reactant | N,N-dimethylthiocarbamoyl chloride | 23.8 mmol, 2.94 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | DABCO | 25.1 mmol, 2.82 g | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(1,1-Dimethyl-propyl)-1-dimethylthiocarbamoyloxy-benzene | 2.28 g, 76% | CC(CC)(C)C1=CC=C(C=C1)OC(N(C)C)=S | C14H21NOS
